US07456164B2
1-(4-{4-[(1-isopropylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine
A solution of 4-{4-[(1-isopropylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-carbonitrile (1.8 g, 5.73 mmol) in THF (80 ml) was cooled to 0° C. under an atmosphere of nitrogen. A solution of lithium aluminium hydride (1.0M solution in Et2O, 17 ml, 17 mmol) was added dropwise over 5 min. The mixture was stirred whilst warming to ambient temperature over 18 hours. The reaction was cooled to 0° C. and quenched with water (0.5 ml) then 2M NaOH (0.5 ml) and then water (1.5 ml). Celite® (3 g) was added and the mixture stirred at ambient temperature for 0.5 hour. Diluted with ethyl acetate (50 ml), filtered and concentrated in vacuo to give a colourless oil (1.8 g). The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (97:3:0.3 to 88:12:1.2 by volume) to give the title compound as a white crystalline solid (1.55 g, 85%). 1H NMR (400 MHz, CDCl3) δ 7.18 (d, 2H), 6.89 (d, 2H), 4.18 (d, 2H), 3.77 (m, 2H), 3.54 (m, 2H), 3.41 (t, 2H), 3.02 (t, 2H), 2.88 (m, 1H), 2.75 (s, 2H), 2.31 (quintet, 1H), 2.11 (m, 2H), 1.80 (m, 2H), 0.95 (d, 6H). LRMS ESI+ m/z 319 [M+H]+. HRMS ESI+ m/z 319.2375 [MH]+.

reactant | 4-{4-[(1-isopropylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-carbonitrile | 5.73 mmol, 1.8 g | C(C)(C)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | lithium aluminium hydride | 17 mmol, 1.0M, 17 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 1-(4-{4-[(1-isopropylazetidin-3-yl)methoxy]phenyl}tetrahydro-2H-pyran-4-yl)methanamine | 1.8 g | C(C)(C)N1CC(C1)COC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
